### ISSUE TITLE
Type incorrect translation of well-founded function with `dite` in the type

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#7322]
PR #7166 was green, mathlib built, I sent it to the queue, and it came back with a pretty tricky failure in the recursive theorem `Std.Tactic.BVDecide.BVExpr.bitblast.blastShiftLeftConst.go_denote_eq`.

After some debugging I found out that the issue is in `WF/Fix.lean`, which I didn’t even change! But it seems by reordering the parameters I have uncovered a pre-existing bug:

```lean

/--
warning: declaration uses 'sorry'
---
error: application type mismatch
  congrArg (fun _a => _a = ⟨idx, h⟩) (x✝ n✝ (id sorry))
argument has type
  a = if hidx : idx < distance then ⟨idx, hidx⟩ else a
but function has type
  (a = if hidx : idx < distance then ⟨idx, hidx⟩ else a) →
    (fun _a => _a = ⟨idx, h⟩) a = (fun _a => _a = ⟨idx, h⟩) (if hidx : idx < distance then ⟨idx, hidx⟩ else a)
-/
#guard_msgs in
theorem demo (distance : Nat) (idx : Nat) (a : Fin distance) (fuel : Nat) :
    a = if hidx : idx < distance then Fin.mk idx hidx else a := by
  cases fuel
  · sorry
  next fuel =>
    split
    · rw [demo distance idx a fuel]
      sorry
    · rfl
termination_by fuel
decreasing_by sorry
```

The problem is that refining the induction hypothesis through the matcher introduced by `split` changes the type from
```
a = @dite (Fin distance) (idx < distance) (idx.decLt distance) (fun hidx => ⟨idx, hidx⟩) 
```
to
```
  a = @dite (Fin distance) (idx < distance) (isTrue h) (fun hidx => ⟨idx, hidx⟩) fun hidx => a
```
and that’s no longer type correct. 

Tricky!

(A workaround is to do the `rw` before the `split`, but maybe I can find a fix.)

### Versions

Lean 4.19.0-nightly-2025-03-04

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
